US09278910B2
Prepared using General Procedure 8. To a stirred solution of tert-butyl 2-(4-((tert-butoxycarbonyl)amino)-N-(4-(3-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-5-yl)benzyl)benzamido)acetate INT-63 (659 mg, 0.977 mmol) in DCM (15 mL) was added TFA (752 μL, 9.77 mmol) at room temperature. After 2 h additional TFA (752 μL, 9.77 mmol) was added and the reaction mixture stirred for a further 3 h at room temperature. The reaction mixture was diluted with toluene (20 mL) and the solvent removed in vacuo. The residue was diluted with EA (100 mL) and washed with NaHCO3 (30 mL). The organics were concentrated in vacuo and the crude product was purified by chromatography (EA/hexanes) to afford 284 mg (50%) of tert-butyl 2-(4-amino-N-(4-(3-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-5-yl)benzyl)benzamido)acetate INT-64 as an off-white powder. LCMS-ESI (m/z) calculated for C35H34N4O4: 574; found 519 [M-t-Bu+H]+, 573 [M−H]−, tR=3.12 min (Method 10).

reactant | tert-butyl 2-(4-((tert-butoxycarbonyl)amino)-N-(4-(3-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-5-yl)benzyl)benzamido)acetate | C(C)(C)(C)OC(=O)NC1=CC=C(C(=O)N(CC2=CC=C(C=C2)C2=NC(=NO2)C2=CC=C(C=C2)C2=CC=C(C=C2)C)CC(=O)OC(C)(C)C)C=C1 | C40H42N4O6
reactant | TFA | 9.77 mmol, 752 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 9.77 mmol, 752 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(4-amino-N-(4-(3-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-5-yl)benzyl)benzamido)acetate | 284 mg, 50% | NC1=CC=C(C(=O)N(CC2=CC=C(C=C2)C2=NC(=NO2)C2=CC=C(C=C2)C2=CC=C(C=C2)C)CC(=O)OC(C)(C)C)C=C1 | C35H34N4O4
